US04526718
2-(4-Allylthioazetidin-2-on-1-yl)acetic acid
2.34 g of potassium hydroxide dissolved in a mixture of 285 ml of ethanol and 15 ml of water were added to 6.0 g of methyl 2-(4-allylthioazetidin-2-on-1-yl)acetate with stirring at room temperature. The solution was poured into 720 ml 1M hydrochloric acid, extracted into dichloromethane (2.650 ml), the organic layer extracted with saturated sodium bicarbonate solution and the aqueous phase acidified to pH1 with 5M hydrochloric acid. This solution was extracted into dichloromethane (5×650 ml), dried with MgSO4 and evaporated to leave a colorless oil.

reactant | potassium hydroxide | 2.34 g | [OH-].[K+]
reactant | methyl 2-(4-allylthioazetidin-2-on-1-yl)acetate | 6.0 g | C(C=C)SC1CC(N1CC(=O)OC)=O | C9H13NO3S
reactant | hydrochloric acid | 1M, 720 ml | Cl | ClH
solvent | ethanol | 285 ml | C(C)O | C2H6O
solvent | water | 15 ml | O | H2O
product | 2-(4-Allylthioazetidin-2-on-1-yl)acetic acid | C(C=C)SC1CC(N1CC(=O)O)=O | C8H11NO3S
